US06451816B1
2-[4-(1-tert-Butoxycarbonylpiperidin-4-yl)-butyl]-isoindol-1,3-dione
136.0 g (<528 mmol) 4-(1-tert-butoxycarbonylpiperidin-4-yl)-butan-1-ol (crude product), 135.3 g (516 mmol) triphenylphosphine and 75.9 g (516 mmol) phthalimide are suspended in THF and 89.9 g (516 mmol) azodicarboxylic acid diethyl ester are added dropwise within 3 hours under protective atmosphere and light cooling (ca. 15° C.). The mixture is left to stand at RT overnight without further cooling. Subsequently, the solvent is removed under vacuum and the oily residue is dissolved in 500 ml acetic acid ethyl ester and held overnight at 0° C. The sedimented precipitate is filtered and discarded. The solution is concentrated under vacuum and the oily residue is chromatographically purified over silica gel with CHCl3 and crystallized from 200 ml isopropanol after drawing off the solvent. Colorless crystals with a MP of 100-102° C. were recovered; yield: 108.5g (57%).

reactant | 4-(1-tert-butoxycarbonylpiperidin-4-yl)-butan-1-ol | <528 mmol, 136.0 g | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCCO | C14H27NO3
reactant | triphenylphosphine | 516 mmol, 135.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | phthalimide | 516 mmol, 75.9 g | C1(C=2C(C(N1)=O)=CC=CC2)=O | C8H5NO2
reactant | azodicarboxylic acid diethyl ester | 516 mmol, 89.9 g | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
solvent | THF | C1CCOC1 | C4H8O
product | 2-[4-(1-tert-Butoxycarbonylpiperidin-4-yl)-butyl]-isoindol-1,3-dione | C(C)(C)(C)OC(=O)N1CCC(CC1)CCCCN1C(C2=CC=CC=C2C1=O)=O | C22H30N2O4
